US04546181
3-Amino-5-methyl[1,2,4]triazolo[1,5-a]pyrimidin-7(3H)-one
A 2.4 g portion of 3-amino-2-hydrazino-6-methyl-4(3H)-pyrimidinone was dissolved in 100 ml of n-butanol by heating to the boiling point. A 20 ml portion of triethyl orthoformate was added and the solution was refluxed for 45 minutes. The solid was collected while the solution was hot, washed with ether and dried, giving 1.45 g of the desired intermediate, mp 202°-204°.

reactant | 3-amino-2-hydrazino-6-methyl-4(3H)-pyrimidinone | NN1C(=NC(=CC1=O)C)NN | C5H9N5O
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
product | 3-Amino-5-methyl[1,2,4]triazolo[1,5-a]pyrimidin-7(3H)-one | 1.45 g | NN1C=NN2C1=NC(=CC2=O)C | C6H7N5O
